US04379159
4,5-Bis(4-chlorophenyl)-4,5-dihydro-2-(allylthio)-1H-imidazole Hydrochloride
By the procedure described in Example 1, 2.0 g of 4,5-bis(4-chlorophenyl)-4,5-dihydro-1H-imidazole-2-thiol was converted to 1.0 g of the title compound with allyl bromide. After recrystallization from nitromethane, the colorless crystals had m.p. 208° dec. The infrared and NMR spectra of the free base were consistent with the proposed structure.

reactant | 4,5-bis(4-chlorophenyl)-4,5-dihydro-1H-imidazole-2-thiol | 2.0 g | ClC1=CC=C(C=C1)C1N=C(NC1C1=CC=C(C=C1)Cl)S | C15H12Cl2N2S
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | 4,5-Bis(4-chlorophenyl)-4,5-dihydro-2-(allylthio)-1H-imidazole Hydrochloride | 1.0 g | Cl.ClC1=CC=C(C=C1)C1N=C(NC1C1=CC=C(C=C1)Cl)SCC=C | InChI=1S/C18H16Cl2N2S.ClH/c1-2-11-23-18-21-16(12-3-7-14(19)8-4-12)17(22-18)13-5-9-15(20)10-6-13;/h2-10,16-17H,1,11H2,(H,21,22);1H
